US07994185B2
2,5-Difluoro-N-{2-fluoro-3-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.2 g, 0.352 mmol) and 1-(methylsulfonyl)-4-piperidinamine (0.314 g, 1.76 mmol) in THF (1 mL) the title compound was obtained as a white solid (0.14 g, 0.197 mmol, 56.0% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.75 (s, 1H), 7.90 (d, J=5.2 Hz, 1H), 7.68-7.71 (m, 1H), 7.45-7.63 (m, 3H), 7.36-7.45 (m, 1H), 7.21-7.35 (m, 2H), 7.05-7.20 (m, 1H), 3.38-3.78 (m, 5H), 3.32 (s, 3H), 2.56-3.18 (m, 4H), 1.38-2.43 (m, 8H). MS (ESI): 710 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.352 mmol, 0.2 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF3N5O3S2
reactant | 1-(methylsulfonyl)-4-piperidinamine | 1.76 mmol, 0.314 g | CS(=O)(=O)N1CCC(CC1)N | C6H14N2O2S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-N-{2-fluoro-3-[5-(2-{[1-(methylsulfonyl)-4-piperidinyl]amino}-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=C(C(=CC=C1)C=1N=C(SC1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C)N1CCOCC1)F | C29H30F3N7O5S3
